US08012986B2
2-(2-Chloro-pyridin-4-yl)-4-difluoromethyl-6-(6-trifluoromethyl-pyridin-3-yl)-pyrimidine
The title compound was prepared from 2-chloro-4-difluoromethyl-6-(6-trifluoromethyl-pyridin-3-yl)-pyrimidine (example A.3) (2.0 g, 6.46 mmol) and commercially available 2-chloro-pyridine-4-boronic acid (1.12 g, 7.12 mmol) according to the general procedure IIb. Obtained as an off-white solid (0.6 g, 24%). MS (ISP) 387.1 [(M+H)+]; mp 185° C.

reactant | 2-chloro-4-difluoromethyl-6-(6-trifluoromethyl-pyridin-3-yl)-pyrimidine | 6.46 mmol, 2.0 g | ClC1=NC(=CC(=N1)C(F)F)C=1C=NC(=CC1)C(F)(F)F | C11H5ClF5N3
reactant | 2-chloro-pyridine-4-boronic acid | 7.12 mmol, 1.12 g | ClC1=NC=CC(=C1)B(O)O | C5H5BClNO2
product | 2-(2-Chloro-pyridin-4-yl)-4-difluoromethyl-6-(6-trifluoromethyl-pyridin-3-yl)-pyrimidine | ClC1=NC=CC(=C1)C1=NC(=CC(=N1)C(F)F)C=1C=NC(=CC1)C(F)(F)F | C16H8ClF5N4
